US08975400B2
4-phenoxybenzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 4-fluorobenzaldehyde and phenol.

reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 4-phenoxybenzaldehyde | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
